US04149848
2nd Stage: Preparation of 4-amino-N-tetrahydrofurfurylaniline dihydrochloride
4.02 g of ammonium chloride and 57 g of zinc powder are added to 180 ml of an aqueous-alcoholic solution (83% of alcohol and 17% of water). This mixture is heated to the reflux temperature, whilst stirring, and 0.122 mol (27 g) of 4-nitro-N-tetrahydrofurfurylaniline is then added gradually. When the reaction medium is decolorised, it is filtered and the filtrate is collected in a flask containing 30 ml of ice-cooled hydrochloric acid (d=1.19). On cooling, the expected dihydrochloride precipitates in the form of crystals. It is filtered off and washed with absolute alcohol and then acetone. After drying in vacuo, it melts at about 190° C. with decomposition.

reactant | ammonium chloride | 4.02 g | [Cl-].[NH4+]
reactant | 4-nitro-N-tetrahydrofurfurylaniline | 0.122 mol, 27 g | [N+](=O)([O-])C1=CC=C(NCC2CCCO2)C=C1 | C11H14N2O3
catalyst | zinc | 57 g | [Zn] | Zn
product | 4-amino-N-tetrahydrofurfurylaniline dihydrochloride | Cl.Cl.NC1=CC=C(NCC2CCCO2)C=C1 | InChI=1S/C11H16N2O.2ClH/c12-9-3-5-10(6-4-9)13-8-11-2-1-7-14-11;;/h3-6,11,13H,1-2,7-8,12H2;2*1H
